US06528528B2
3-Benzenesulfonylamino-4-methoxy-N-phenyl-benzamide
A mixture of 3-amino-4-methoxy-N-phenyl-benzamide (0.9726 g, 4.00 mmol), triethylamine (0.56 mL, 4.02 mmol), and benzenesulfonyl chloride (0.51 mL, 4.00 mmol) in ethyl acetate (70 mL) was heated briefly to obtain a solution. The reaction was stirred overnight at room temperature under nitrogen. An additional equivalent of triethylamine and ½ equivalent of benzenesulfonyl chloride was added and the mixture heated to 50-60° C. After 7 hours, the solvent was removed in vacuo and the residue dissolved in ethyl acetate and washed with 1N HCl followed by saturated NaHCO3. The organic layer was filtered, dried with MgSO4, and stripped of solvent by rotary evaporator. Trituration of the residue in hexane/ethyl acetate (4:1) afforded the product (0.268 g); m.p. 190-194° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.9726 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | triethylamine | 4.02 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 4.00 mmol, 0.51 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | benzenesulfonyl chloride | ½ equivalent | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | 3-Benzenesulfonylamino-4-methoxy-N-phenyl-benzamide | 0.268 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H18N2O4S
